US06548538B2
1,1-Dimethylethyl 2-[[4-[2-[(2-ethoxy-2-oxoethyl)(2-furanylmethyl)amino]ethyl]-phenyl]thio]-2-methyl-propanoate
2.4 g of 1,1-dimethylethyl 2-[[4-[2-[(2-furanylmethyl)amino]ethyl]phenyl]thio]-2-methyl-propanoate, 1.5 g of ethyl bromoacetate, 0.97 g of triethylamine and 7.08 g of tetra-n-butylammonium iodide are dissolved in 100 ml of tetrahydrofuran and heated at reflux overnight. Ethyl acetate and water are added, and the mixture is extracted with water and sat. NaCl solution. Concentration and chromatography (petroleum ether/ethyl acetate 10+1) gives 1.38 g of the title compound.

reactant | 1,1-dimethylethyl 2-[[4-[2-[(2-furanylmethyl)amino]ethyl]phenyl]thio]-2-methyl-propanoate | 2.4 g | O1C(=CC=C1)CNCCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C | C21H29NO3S
reactant | ethyl bromoacetate | 1.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 0.97 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetra-n-butylammonium iodide | 7.08 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,1-Dimethylethyl 2-[[4-[2-[(2-ethoxy-2-oxoethyl)(2-furanylmethyl)amino]ethyl]-phenyl]thio]-2-methyl-propanoate | 1.38 g | C(C)OC(CN(CCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C)CC=1OC=CC1)=O | C25H35NO5S
